US08258144B2
6-(4-(4-(aminomethyl)piperidin-1-yl)-5-bromopyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one
The titled compound was synthesized analogously as compound 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one, by using 5-bromo-2,4-dichloropyrimidine. MS 431.4 and 433.3 (M+N, Br pattern); UV 222.3, 263.9 nm.

reactant | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | NCC1CCN(CC1)C1=NC(=NC=C1F)NC=1C=C2CCC(NC2=CC1)=O | C19H23FN6O
reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
product | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-bromopyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | NCC1CCN(CC1)C1=NC(=NC=C1Br)NC=1C=C2CCC(NC2=CC1)=O | C19H23BrN6O
